US06255502B1
Salbutamol caprate and hydroxypropyl-beta cyclodextrin (HBP) were complexed by the kneading method. Salbutamol caprate (2.72 g) and HPB (7.728 g) were blended together. Water (5 mL) was added and the mixture ground together in a mortar with a pestle to form a uniform paste. Grinding was continued for 30 minutes. The paste was then dried in a vacuum oven (40° C.; 0 bar) for 48 hours. The solid mass was broken up, passed through a 60 mesh screen and returned to the vacuum oven (40° C.; 0 bar) for 12 hours in order to ensure uniform drying of the complex. Analysis of HPLC for salbutamol base content, and Karl Fischer for moisture content gave the following) results: % salbutamol base was 12.97%, and the moisture content was 5.56%. The complex was characterised by DSC, FT-IR and XRD. The solubility in aqueous solution was greater than 4.8 mg/mL, and the pH of a saturated aqueous solution was 6.79.

reactant | Salbutamol caprate | CC(C)(C)NCC(C=1C=CC(=C(C1)CO)O)O.[O-]C(=O)CCCCCCCCC
reactant | hydroxypropyl-beta cyclodextrin | CC(COC[C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](O[C@@H]([C@@H]([C@H]5O)O)O[C@@H]6[C@H](O[C@@H]([C@@H]([C@H]6O)O)O[C@@H]7[C@H](O[C@@H]([C@@H]([C@H]7O)O)O[C@@H]8[C@H](O[C@H](O2)[C@@H]([C@H]8O)O)COCC(C)O)COCC(C)O)COCC(C)O)COCC(C)O)COCC(C)O)COCC(C)O)O)O)O | C63H112O42
reactant | Salbutamol caprate | 2.72 g | CC(C)(C)NCC(C=1C=CC(=C(C1)CO)O)O.[O-]C(=O)CCCCCCCCC
solvent | Water | 5 mL | O | H2O
product | salbutamol | CC(C)(C)NCC(C=1C=CC(=C(C1)CO)O)O | C13H21NO3
